Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
AMS
 
Major Surgical or Invasive Procedure:
n/a

 
History of Present Illness:
Mr. ___ is a ___ gentleman with HIV and GERD, and hx of  
 physical abuse brought in via EMS for AMS.  
 Patient consumed ___ year old hallucinogenic mushrooms and 
possibly  
 other substances at a sex party. ___ later was not "feeling 
weird" so tried to call PMD at ___ but when he could 
not get through called EMS who brought him to ___ ED.  
 No F/C, N/V, CP, Abd pain, hematuria, hematemesis, diarrhea, 
BRBPR, melena, dysuria, HA, or change in vision.  
 In the ED, initial vitals were: 99.1 HR: 116 BP: 150/80 Resp: 
16 O(2)Sat: 95  
 Patient was evaluated by psychiatry for being possibly 
hypomanic even though friend confirmed patient was at baseline. 
has been has been intermittently agitated, with flight of ideas, 
word salad, and attempts to leave.  
 - Labs were significant for +Amphetamines on UTox, AST 46  
 - The patient was given olanzapine, Ativan, and home meds while 
in ED for last 2 days.  
 Upon arrival to the floor, patient is well w/o complaints. 
 
Past Medical History:
 1) HIV  
 2) GERD  
 3) HSV  
 
Social History:
___
Family History:
 No family psych history 
 
Physical Exam:
ADMISSION EXAM:
General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
 Neck: Supple, JVP not elevated  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, no rebound or 
guarding  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation  
 Psych: Feels well, normal mood and affect w/ linear train of 
though w/o tangents, no SI or HI  

DISCHARGE EXAM:
97.7 121/91 (100-120s) 88 (70-90s)  16 94% RA
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, 
Neck: Supple, JVP not elevated  
CV: RRR no m/r/g 
Lungs: CTA b/l no w/r/r
Abdomen: Soft, non-tender, non-distended 
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro:alert and oriented, able to move all extremities 
Psych: Feels well, normal mood and affect w/ linear train of 
though w/o tangents, no SI or HI 
 
Pertinent Results:
ADMISSION LABS:
___ 02:40PM   PLT COUNT-223
___ 02:40PM   NEUTS-74.5* LYMPHS-12.5* MONOS-11.7 EOS-0.2* 
BASOS-0.7 IM ___ AbsNeut-4.07 AbsLymp-0.68* AbsMono-0.64 
AbsEos-0.01* AbsBaso-0.04
___ 02:40PM   WBC-5.5 RBC-5.20 HGB-14.1 HCT-43.9 MCV-84 
MCH-27.1 MCHC-32.1 RDW-14.2 RDWSD-43.5
___ 02:40PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 02:40PM   GLUCOSE-264* UREA N-28* CREAT-1.0 SODIUM-133 
POTASSIUM-3.6 CHLORIDE-98 TOTAL CO2-25 ANION GAP-14
___ 03:24PM URINE  MUCOUS-OCC
___ 03:24PM URINE  RBC-1 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 03:24PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-300 KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 03:24PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-POS oxycodn-NEG mthdone-NEG

DISCHARGE LABS: 
___ 06:47AM BLOOD WBC-4.4 RBC-5.75 Hgb-15.9 Hct-49.8 MCV-87 
MCH-27.7 MCHC-31.9* RDW-14.9 RDWSD-46.2 Plt ___
___ 06:47AM BLOOD Glucose-93 UreaN-29* Creat-1.3* Na-137 
K-4.7 Cl-101 HCO3-30 AnGap-11
 
Brief Hospital Course:
Mr. ___ is a ___ man with no previous psychiatric 
history and PMHx significant for HIV (on HAART), who 
self-presented to the ___ ED via ambulance after "feeling 
weird" s/p using hallucinogenic mushrooms. 

#AMS: On initial psychiatric assessment several hours after he 
arrived to the ED, he was found to be tangential and exhibiting 
multiple symptoms of hypomania including elevated mood, 
expansive and silly affect, and flight of ideas. He required 
antipsychotics and was hospitalized under a ___ and 
followed by psychiatry as an inpatient.. His symptoms improved 
as the mushrooms cleared his symptoms and he returned to his 
baseline. He was discharged with Psych ___

#HIV: patient was continued on home meds

Transitional issues:
-Started olanzapine, reassess if needs continuation at ___
-___ counseling against high risk behavior
-needs STD screening at ___ follow up given recent attendance at 
sex party
-psych ___
-Establishment with mental health provider
 # CODE STATUS: Full  
 # CONTACT: ___ (sister) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Famotidine 20 mg PO DAILY 
2. ValACYclovir 500 mg PO Q24H 
3. testosterone 1 % (50 mg/5 gram) transdermal DAILY 
4. RiTONAvir 100 mg PO BID 
5. Etravirine 200 mg PO BID 
6. Raltegravir 400 mg PO BID 
7. Darunavir 600 mg PO BID 
8. Sulfameth/Trimethoprim DS 1 TAB PO DAILY 
9. Tretinoin 0.1% Gel 1 Appl TP QHS 
10. Cetirizine 10 mg PO DAILY 
11. Naproxen 500 mg PO Q12H:PRN pain 

 
Discharge Medications:
1. Darunavir 600 mg PO BID 
2. Etravirine 200 mg PO BID 
3. Famotidine 20 mg PO DAILY 
4. Raltegravir 400 mg PO BID 
5. RiTONAvir 100 mg PO BID 
6. Sulfameth/Trimethoprim DS 1 TAB PO DAILY 
7. testosterone 1 % (50 mg/5 gram) transdermal DAILY 
8. Cetirizine 10 mg PO DAILY 
9. Naproxen 500 mg PO Q12H:PRN pain 
10. Tretinoin 0.1% Gel 1 Appl TP QHS 
11. ValACYclovir 500 mg PO Q24H 
12. OLANZapine 2.5 mg PO BID anxiety 
RX *olanzapine 2.5 mg 1 tablet(s) by mouth twice a day Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
Psychotic episode
Mushroom intoxication

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

It was a pleasure taking care of you at ___ 
___. You came to the hospital because of a change in 
your mental status after you took hallucinogenic mushrooms. You 
were evaluated by psychiatry and required medications to calm 
you down. As the mushrooms wore off your symptoms improved. We 
strongly advise you do not take any recreational drugs as it 
puts your life in danger. It is also very important to use 
condoms with any sexual activity to reduce the risk of sexually 
transmitted infections. You are starting a medication called 
Olanzapine. You should talk to your doctor if you need to 
continue this. 

Please ask your primary care doctor to screen your for sexually 
transmitted diseases. 
 
Followup Instructions:
___